US09315467B2
Part B. A solution of (methyl 4-(3-dimethylamino-acryloyl)-benzoate) (100 mg) in acetic acid (5 mL) is treated with acetophenone and ammonium acetate (77 mg). The resulting mixture is heated to 80° C. for 18 h, then cooled and evaporated under a stream of nitrogen. The resulting solid is recrystallized in ethyl acetate-hexane to afford methyl 3-(6-phenyl-pyridin-2-yl)-benzoate. MS (ES+): m/e 290.2 (100).

reactant | methyl 4-(3-dimethylamino-acryloyl)-benzoate | CN(C=CC(=O)C1=CC=C(C(=O)OC)C=C1)C | C13H15NO3
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ammonium acetate | 77 mg | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | methyl 3-(6-phenyl-pyridin-2-yl)-benzoate | C1(=CC=CC=C1)C1=CC=CC(=N1)C=1C=C(C(=O)OC)C=CC1 | C19H15NO2
